US05545568
4-Benzoyl-6-chloro-3-fluorenylmethoxycarbonylaminobenzoic acid
A solution was prepared by diluting 3-amino-4-benzoyl-6-chlorobenzoic acid (5.59 g, 20.3 mmol) with approximately 70 mL of CH2Cl2. Chlorotrimethylsilane (5.50 g, 51 mmol, 2.5 equivalents) was added by syringe and the resulting white slurry was heated at gentle reflux for 1.5 hours. After cooling the mixture to 0° C., pyridine (3.69 g, 46.7 mmol, 2.3 equivalents) was added by syringe, immediately followed by addition of fluorenylmethoxycarbonyl chloride (5.78 g, 22.3 mmol, 1.1 equivalents). The resulting slurry was stirred for one hour under a nitrogen atmosphere. The reaction solution was then diluted with CH2Cl2 (150 mL) and was extracted three times with 1.0N aqueous sodium bisulfate (100 mL) and once with aqueous sodium chloride (100 mL), then dried over sodium sulfate and concentrated in vacuo to give a viscous oil. Pure product was obtained in 64% yield (6.50 g) as a white solid by flash chromatography with 5 cm×25 cm silica gel and 40:60 ethyl acetate and then 75:25:1 ethyl acetate/hexane/acetic acid as the eluent. The structure was confirmed by proton NMR, carbon-13NMR, and FAB mass spectroscopy.

reactant | 3-amino-4-benzoyl-6-chlorobenzoic acid | 20.3 mmol, 5.59 g | NC=1C=C(C(=O)O)C(=CC1C(C1=CC=CC=C1)=O)Cl | C14H10ClNO3
reactant | Chlorotrimethylsilane | 51 mmol, 5.50 g, 2.5 equivalents | Cl[Si](C)(C)C | C3H9ClSi
reactant | pyridine | 46.7 mmol, 3.69 g, 2.3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | fluorenylmethoxycarbonyl chloride | 22.3 mmol, 5.78 g, 1.1 equivalents | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
solvent | CH2Cl2 | approximately 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate hexane acetic acid | C(C)(=O)OCC.CCCCCC.C(C)(=O)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Benzoyl-6-chloro-3-fluorenylmethoxycarbonylaminobenzoic acid | 64% yield | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C(=C1)Cl)NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12 | C29H20ClNO5
